US05614520
120 mg of Ethyl 2-(3-bromo-4-neopentyloxyphenyl)-4-methyl-5-thiazolecarboxylate, 100 mg of cuprous iodide and 80 mg of lithium iodide were suspended in 2 ml of N-methyl pyrrolidone, and the suspension was heated at 150° C. for 4 hours with stirring. After completion of the reaction, the product was extracted with ethyl acetate, and the organic layer was concentrated to give a crude crystal. The resulting crystal was purified by silica gel chromatography to give 95 mg of ethyl 2-(3-iodo-4-neopentyloxyphenyl)-4-methyl-5-thiazolecarboxylate. The product was hydrolyzed by a conventional process, followed by recrystallization from hexane-ether to give 63 mg of 2-(3-iodo-4-neopentyloxyphenyl)-4-methyl-5-thiazolecarboxylic acid (yield: 58%).

reactant | Ethyl 2-(3-bromo-4-neopentyloxyphenyl)-4-methyl-5-thiazolecarboxylate | 120 mg | BrC=1C=C(C=CC1OCC(C)(C)C)C=1SC(=C(N1)C)C(=O)OCC | C18H22BrNO3S
reactant | lithium iodide | 80 mg | [I-].[Li+]
solvent | N-methyl pyrrolidone | 2 ml | CN1C(CCC1)=O | C5H9NO
product | ethyl 2-(3-iodo-4-neopentyloxyphenyl)-4-methyl-5-thiazolecarboxylate | 95 mg | IC=1C=C(C=CC1OCC(C)(C)C)C=1SC(=C(N1)C)C(=O)OCC | C18H22INO3S
